US07368578B2
4-[(E)-2-(3-Benzyloxy-1-phenyl-1H-pyrazol-4-yl)ethenyl]-1,3-thiazole (0.81 g), 5% palladium on carbon (0.80 g) and tetrahydrofuran (80 mL) were subjected to catalytic reduction under a hydrogen atmosphere and atmospheric pressure. The catalyst was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (1:3, v/v) to give 4-[2-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)ethyl]-1,3-thiazole as a colorless oil (0.58 g, yield 70%).

reactant | 4-[(E)-2-(3-Benzyloxy-1-phenyl-1H-pyrazol-4-yl)ethenyl]-1,3-thiazole | 0.81 g | C(C1=CC=CC=C1)OC1=NN(C=C1/C=C/C=1N=CSC1)C1=CC=CC=C1 | C21H17N3OS
catalyst | palladium on carbon | 0.80 g | [Pd] | Pd
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 4-[2-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)ethyl]-1,3-thiazole | 0.58 g, yield 70% | C(C1=CC=CC=C1)OC1=NN(C=C1CCC=1N=CSC1)C1=CC=CC=C1 | C21H19N3OS
